US06326398B1
To a cooled (0° C.), stirred solution of 3-benzyloxy-4-methoxybenzaldehyde (10 g) in MeOH (100 mL) was added hydrogen peroxide (5.5 mL of 30% aqueous) dropwise. After having been warmed to RT, concentrated sulfuric acid (1 mL) was added and the resulting solution was allowed to stir for 1.5 h. The reaction mixture was partitioned between ethyl ether/saturated aqueous sodium bicarbonate, another organic layer was dried over sodium sulfate and concentrated in vacuo to afford an oil. Flash chromatography (20% ethyl acetate/hexanes) afforded 3-benzyloxy-4-methoxyphenol (5.8 g).

reactant | 3-benzyloxy-4-methoxybenzaldehyde | 10 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | hydrogen peroxide | 5.5 mL | OO | H2O2
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | MeOH | 100 mL | CO | CH4O
product | 3-benzyloxy-4-methoxyphenol | 5.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)O | C14H14O3
